US06972297B2
(a) 3-Methylaminopyridazine-carboxylic Acid
3-Chloropyridazine-6-carboxylic acid (2.5 g) (R. F. Homer, H. Gregory, W. G. Overend and L. F. Wiggins, J. Chem.Soc (1948) 2195-9) was treated with 8M methylamine in ethanol (2.16 ml) and heated at 100° C. in a sealed bomb for 18 hours. The solution was acidified to pH 4 with 5N HCl and the precipitate filtered off to provide title compound (0.58 g). MS (−ve ion chemical ionisation) ml/z 152 ([M-H]−, 100%).

reactant | 3-Chloropyridazine-6-carboxylic acid | 2.5 g | ClC=1N=NC(=CC1)C(=O)O | C5H3ClN2O2
reactant | methylamine | 8M | CN | CH5N
reactant | HCl | 5N | Cl | ClH
solvent | ethanol | 2.16 ml | C(C)O | C2H6O
product | 3-Methylaminopyridazine-carboxylic Acid | 0.58 g | CNC1(NN=CC=C1)C(=O)O | C6H9N3O2
